US06156700
Preparation of 5-Amino-6-fluoro-3-methyl-1,2-benzisothiazole
A solution of 6-fluoro-3-methyl-5-nitro-1,2-benzisothiazole (0.740 g, 3.50 mmol), 5% acetic acid (25.0 mL) and ethyl acetate is heated to 65° C., treated with iron powder (0.980 g, 17.5 mmol), stirred at 65° C. for one hour, cooled to room temperature, and filtered to remove solids. The organic phase is separated, washed sequentially with water, saturated sodium hydrogen carbonate solution and brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo to give the title product as an orange solid (0.610 g) which is identified by NMR spectral analyses.

reactant | 6-fluoro-3-methyl-5-nitro-1,2-benzisothiazole | 3.50 mmol, 0.740 g | FC1=CC2=C(C(=NS2)C)C=C1[N+](=O)[O-] | C8H5FN2O2S
reactant | acetic acid | 25.0 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 17.5 mmol, 0.980 g | [Fe] | Fe
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Amino-6-fluoro-3-methyl-1,2-benzisothiazole | 0.610 g | NC=1C(=CC2=C(C(=NS2)C)C1)F | C8H7FN2S
